US04497650
7,8-Dichloro-1,2-dihydro-2,2,3-trimethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one
Reaction of 2-amino-5,6-dichlorobenzimidazole with acetone and methyl isocyanate according to the procedure of Example 1, first paragraph, provided the title compound. In this case, a 10-N-methylcarbamoyl derivative was not isolated from the reaction mixture. The product was recrystallized from acetone to give a solid, mp 220° C. (dec.). The confirmatory elemental analysis is shown in Table III.

reactant | 2-amino-5,6-dichlorobenzimidazole | NC=1NC2=C(N1)C=C(C(=C2)Cl)Cl | C7H5Cl2N3
reactant | methyl isocyanate | CN=C=O | C2H3NO
reactant | acetone | CC(=O)C | C3H6O
product | 7,8-Dichloro-1,2-dihydro-2,2,3-trimethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one | ClC=1C(=CC2=C(N3C(=N2)NC(N(C3=O)C)(C)C)C1)Cl | C12H12Cl2N4O
